US06339087B1
A solution of 4-(3,4-dichlorobenzyl)-1-ethyl-1-{3-methyl-2-[3-(3,4,5-trimethoxyphenyl)ureido]butyl}piperidinium iodide (0.2 g) in methanol (5 ml) was slowly passed through a column of Dowex 1x8-50 ion exchange resin (3 g). The eluted product was concentrated in vacuo to give 4-(3,4-dichlorobenzyl)-1-ethyl-1-{3-methyl-2-[3-(3,4,5-trimethoxyphenyl)ureido]butyl}piperidinium chloride.

reactant | 4-(3,4-dichlorobenzyl)-1-ethyl-1-{3-methyl-2-[3-(3,4,5-trimethoxyphenyl)ureido]butyl}piperidinium iodide | 0.2 g | [I-].ClC=1C=C(CC2CC[N+](CC2)(CC(C(C)C)NC(=O)NC2=CC(=C(C(=C2)OC)OC)OC)CC)C=CC1Cl
solvent | methanol | 5 ml | CO | CH4O
product | 4-(3,4-dichlorobenzyl)-1-ethyl-1-{3-methyl-2-[3-(3,4,5-trimethoxyphenyl)ureido]butyl}piperidinium chloride | [Cl-].ClC=1C=C(CC2CC[N+](CC2)(CC(C(C)C)NC(=O)NC2=CC(=C(C(=C2)OC)OC)OC)CC)C=CC1Cl | InChI=1S/C29H41Cl2N3O4.ClH/c1-7-34(12-10-20(11-13-34)14-21-8-9-23(30)24(31)15-21)18-25(19(2)3)33-29(35)32-22-16-26(36-4)28(38-6)27(17-22)37-5;/h8-9,15-17,19-20,25H,7,10-14,18H2,1-6H3,(H-,32,33,35);1H
